US09290490B2
Ethyl 4-[(5-{3-methyl-5-[(4-methylpyrimidin-2-yl)amino]phenyl}-1,3-thiazol-2-yl)methyl]cyclohexanecarboxylate (147 mg, 0.326 mmol) was suspended in methanol (2.0 mL) in a microwave vial, and sodium hydroxide (1M in water, 0.652 mL, 0.652 mmol) was added. The reaction was heated to 110° C. for 30 min via microwave irradiation. The reaction was acidified to pH=3-4 with aqueous 1M HCl and extracted with 15% isopropyl alcohol in chloroform (2×). The combined organic layers were dried over magnesium sulfate and concentrated under reduced pressure to afford 4-[(5-{3-methyl-5-[(4-methylpyrimidin-2-yl)amino]phenyl}-1,3-thiazol-2-yl)methyl]cyclohexanecarboxylic acid as an off-white solid in a 2.5:1 mixture of diastereomers.

reactant | Ethyl 4-[(5-{3-methyl-5-[(4-methylpyrimidin-2-yl)amino]phenyl}-1,3-thiazol-2-yl)methyl]cyclohexanecarboxylate | 0.326 mmol, 147 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C)C1=CN=C(S1)CC1CCC(CC1)C(=O)OCC | C25H30N4O2S
reactant | sodium hydroxide | 0.652 mmol, 1M, 0.652 mL | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 2.0 mL | CO | CH4O
product | 4-[(5-{3-methyl-5-[(4-methylpyrimidin-2-yl)amino]phenyl}-1,3-thiazol-2-yl)methyl]cyclohexanecarboxylic acid | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C)C1=CN=C(S1)CC1CCC(CC1)C(=O)O | C23H26N4O2S
